US04232166
4-Hydroxy-4-methyl-5-methylene-1-octyne
To a mixture of 5.0 g. of magnesium and 100 mg. of mercuric chloride in 10 ml. of ether is added with stirring, one ml. of dibromoethane. The mixture is stirred for 10 minutes and 0.5 ml. of propargyl bromide is added. An additional 50 ml. of ether is added, followed by a solution of 17.5 g. of 3-methylene-2-hexanone and 27.8 g. of propargyl bromide in 60 ml. of ether, dropwise at a rate to maintain vigorous reflux. The mixture is refluxed for 1/2 hour, cooled to 0° C. and saturated ammonium chloride solution is added dropwise. The mixture is filtered through Celite and the solids are washed with ether. The ether solution is dried over magnesium sulfate and the ether is removed giving the desired product.

reactant | magnesium | [Mg] | Mg
reactant | dibromoethane | BrC(C)Br | C2H4Br2
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 3-methylene-2-hexanone | C=C(C(C)=O)CCC | C7H12O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 4-Hydroxy-4-methyl-5-methylene-1-octyne | OC(CC#C)(C(CCC)=C)C | C10H16O
